* CMOS Inverter Voltage Transfer Characteristic (VTC)
* Sweeps the gate voltage of a BSS84/BSS123 pair from 0 V to VDD
* and records the output node, producing the textbook S-curve used
* to extract VIL, VIH, VOL, VOH and the switching threshold.
* Devices exercised: V, M (NMOS bundled BSS123, PMOS bundled BSS84).

.title CMOS Inverter Voltage Transfer Characteristic
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply and swept input ---
Vdd vdd 0 DC 5
Vin in  0 DC 0

* --- PMOS (source tied to VDD, drain to output) ---
M1 out in vdd vdd BSS84

* --- NMOS (source tied to GND, drain to output) ---
M2 out in 0   0   BSS123

* --- Extend one step past VDD so AT=5 is not a floating endpoint ---
.dc Vin 0 5.01 0.01

.MEASURE DC v_th WHEN V(out)=2.5 FALL=1
.MEASURE DC v_oh FIND V(out) AT=0
.MEASURE DC v_ol FIND V(out) AT=5

.end
